US05866564
7(i) (2S,4S)-4-(4-Methoxybenzylthio)-2-[3-methyl-4-(4-nitrobenzyloxycarbonyl)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 1(i), but using 3.06 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 1.34 g of N,N'-carbonyldiimidazole and 2.30 g of 2-methyl-1-(4-nitrobenzyloxycarbonyl)piperazine, 4.07 g of the title compound were obtained.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 3.06 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 2-methyl-1-(4-nitrobenzyloxycarbonyl)piperazine | 2.30 g | CC1N(CCNC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O4
product | (2S,4S)-4-(4-Methoxybenzylthio)-2-[3-methyl-4-(4-nitrobenzyloxycarbonyl)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.07 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2CC(N(CC2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C)C=C1 | C34H37N5O10S
